US09238631B2
(4S)-4-[4-Hydroxybenzyl]-L-glutamic acid
To 0.35 g (0.75 mmol) of di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-hydroxybenzyl)-L-glutamate were added 10 mL of trifluoro acetic acid and the solution was stirred for 2 days at room temperature. The excess of trifluoro acetic acid was evaporated and the residue was taken up three times in tetrahydrofuran and then evaporated. The resulting oil was chromatographed on C-18 reversed phase silica gel using a water/acetonitrile gradient, the appropriate fractions were combined and concentrated.

reactant | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-(4-hydroxybenzyl)-L-glutamate | 0.75 mmol, 0.35 g | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C25H39NO7
solvent | trifluoro acetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (4S)-4-[4-Hydroxybenzyl]-L-glutamic acid | OC1=CC=C(C[C@@H](C[C@H](N)C(=O)O)C(=O)O)C=C1 | C12H15NO5
